US06184242B2
A mixture of 4-(1-isopropylaminocarbonylpiperidin-4-ylmethyl)-phenylamine (0.64 g, 2.31 mmol) and 2-chloro-2-imidazoline sulfate (0.70 g, 3.47 mmol) in 2-propanol (20 mL) was heated under reflux for 30 minutes. The reaction mixture was concentrated in vacua. The residue was diluted with water, basified with 10% sodium hydroxide solution and extracted into dichloromethane. The organic layer was washed with water and brine, dried (Na2SO4), and concentrated in vacua. The crude product was chromatographed on neutral aluminum oxide, eluting with 5% methanol/dichloromethane, and crystallized from ethyl acetate containing some ethanol, to give 2-[4-(1-isopropylaminocarbonylpiperidin-4-ylmethyl)-phenyl]amino-imidazoline (0.47 g, 59%) as a white solid, m.p. 191-192° C.

reactant | 4-(1-isopropylaminocarbonylpiperidin-4-ylmethyl)-phenylamine | 2.31 mmol, 0.64 g | C(C)(C)NC(=O)N1CCC(CC1)CC1=CC=C(C=C1)N | C16H25N3O
reactant | 2-chloro-2-imidazoline sulfate | 3.47 mmol, 0.70 g | S(=O)(=O)(O)O.ClC=1NCCN1
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 2-[4-(1-isopropylaminocarbonylpiperidin-4-ylmethyl)-phenyl]amino-imidazoline | 0.47 g, 59% | C(C)(C)NC(=O)N1CCC(CC1)CC1=CC=C(C=C1)NC=1NCCN1 | C19H29N5O
